US04294839
3.59 g. of 2-(6-hydroxybenzothiazol-2-ylthio)-2-phenylpropionic acid ethyl ester is dissolved in 15 ml of 1 N sodium hydroxide solution and 1.6 g of diethyl sulfate is added dropwise, while stirring. After stirring for a total of 1 hour, the mixture is worked up in the customary manner to give 2-(6-ethoxybenzothiazol-2-ylthio)-2-phenylpropionic acid ethyl ester, m.p. 92°-94°.

reactant | 2-(6-hydroxybenzothiazol-2-ylthio)-2-phenylpropionic acid ethyl ester | C(C)OC(C(C)(C1=CC=CC=C1)SC=1SC2=C(N1)C=CC(=C2)O)=O | C18H17NO3S2
reactant | diethyl sulfate | 1.6 g | S(=O)(=O)(OCC)OCC | C4H10O4S
solvent | sodium hydroxide | 1 N, 15 ml | [OH-].[Na+]
product | 2-(6-ethoxybenzothiazol-2-ylthio)-2-phenylpropionic acid ethyl ester | C(C)OC(C(C)(C1=CC=CC=C1)SC=1SC2=C(N1)C=CC(=C2)OCC)=O | C20H21NO3S2
